US04059641
(E)-1,1-Dimethoxy-6,10-dimethyl-5,9-undecadien-2-one
In 350 ml of anhydrous ethanol was dissolved 17.4 g of sodium metal, and to this was added dropwise 160 g of methyl 4,4-dimethoxyacetoacetate with stirring at room temperature. One hour later, geranyl bromide prepared from 130 g of geraniol was added dropwise to the above-obtained mixture under ice-cooling. The mixture was then allowed to stand overnight at room temperature and refluxed for one hour. To this reaction mixture was added 42 g of sodium hydroxide in a mixture of 1.4 1. of ethanol and 1.18 1. of water, and the mixture was heated under reflux for 6 hours and extracted with n-hexane. The n-hexane extract was distilled under reduced pressure to give 134 g of the desired product, b.p. 92°- 95° C/0.05 mmHg.

reactant | sodium | 17.4 g | [Na] | Na
reactant | methyl 4,4-dimethoxyacetoacetate | 160 g | COC(C(CC(=O)OC)=O)OC | C7H12O5
reactant | geranyl bromide | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | geraniol | 130 g | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | sodium hydroxide | 42 g | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (E)-1,1-Dimethoxy-6,10-dimethyl-5,9-undecadien-2-one | 134 g | COC(C(CC\C=C(\CCC=C(C)C)/C)=O)OC | C15H26O3
